US07256207B2
Step A: (S)-2-(benzylcarbonylamino)-propionaldehyde.
(S)-2-(benzylcarbonylamino)-propanol (5.00 g, 23.9 mmol) was dissolved in CH2Cl2 (200 mL) and treated with Dess-Martin periodinane (12.26 g, 1.1 eq). The mixture was stirred for 2 hours, then quenched with sodium thiosulphate, and the solvent removed in vacuo. The residue was then separated between sodium hydroxide (1M, 500 mL) and ethyl acetate (500 mL). The organics were washed with brine, dried (MgSO4) and evaporated in vacuo to yield a clear oil which was used immediately in the next step without further purification.

reactant | (S)-2-(benzylcarbonylamino)-propanol | 23.9 mmol, 5.00 g | C(C1=CC=CC=C1)C(=O)N[C@H](CO)C | C11H15NO2
reactant | Dess-Martin periodinane | 12.26 g, 1.1 eq | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
product | (S)-2-(benzylcarbonylamino)-propionaldehyde | C(C1=CC=CC=C1)C(=O)N[C@H](C=O)C | C11H13NO2
